US09422235B2
N-Cyclopropylmethyl-4-phenylamino-2-trifluoromethyl-benzenesulfonamide
A mixture of 4-bromo-N-cyclopropylmethyl-2-trifluoromethylbenzenesulfonamide (183 mg, 0.51 mmol), aniline (93 mg, 1.0 mmol), Pd(OAc)2 (11 mg, 0.05 mmol), BINAP (33 mg, 0.05 mmol) and cesium carbonate (246 mg, 0.75 mmol) in 15 ml toluene was relaxed for 6 hours. Toluene was evaporated in vacuum and crude oil was purified by Combiflash (PE-THF). Yield 20%

reactant | 4-bromo-N-cyclopropylmethyl-2-trifluoromethylbenzenesulfonamide | 0.51 mmol, 183 mg | BrC1=CC(=C(C=C1)S(=O)(=O)NCC1CC1)C(F)(F)F | C11H11BrF3NO2S
reactant | aniline | 1.0 mmol, 93 mg | NC1=CC=CC=C1 | C6H7N
reactant | BINAP | 0.05 mmol, 33 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 0.75 mmol, 246 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.05 mmol, 11 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | N-Cyclopropylmethyl-4-phenylamino-2-trifluoromethyl-benzenesulfonamide | Yield 20% | C1(CC1)CNS(=O)(=O)C1=C(C=C(C=C1)NC1=CC=CC=C1)C(F)(F)F | C17H17F3N2O2S
